US07816557B2
Step A. 3-(4-Formyl-benzoylamino)-propionic acid methyl ester
4-formyl-benzoic acid (20 g, 133 mmol), CDMT (24 g, 137 mmol), and 4-methyl-morpholine (15.4 mL, 140 mmol) are combined in anhydrous dichloromethane (DCM) (300 mL) under nitrogen. The reaction is allowed to stir under nitrogen at room temperature overnight. Beta-alanine methyl ester hydrochloride (20.4 g, (147 mmol) is then added to the reaction mixture, followed by 4-methylmorpholine (15.4 mL, 140 mmol), and allowed to stir at room temperature. Some water (<10% volume) is added to help solubility. The reaction is monitored by HPLC, and upon complete consumption of the acid, the reaction is diluted with DCM. The reaction is diluted with water and extracted with 1N HCl. The organic layer is washed with water and brine, followed by drying over anhydrous sodium sulfate. The solution is filtered and concentrated and further purified using flash column chromatography (30 g, 128 mmol).

reactant | 4-formyl-benzoic acid | 133 mmol, 20 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | 4-methyl-morpholine | 140 mmol, 15.4 mL | CN1CCOCC1 | C5H11NO
reactant | Beta-alanine methyl ester hydrochloride | Cl.COC(CCN)=O
reactant | 4-methylmorpholine | 140 mmol, 15.4 mL | CN1CCOCC1 | C5H11NO
reactant | water | O | H2O
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-(4-Formyl-benzoylamino)-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C=O)=O)=O | C12H13NO4
